US05100893
A mixture of 3.12 parts of 3-[4-(2-chloroethyl)-1-piperidinyl]-6-methylpyridazine, 2.47 parts of 4-(5-ethyl-1,2,4-oxadiazol-3-yl)phenol, 1.38 parts of sodium carbonate and 94 parts of N,N-dimethylacetamide was stirred overnight at 110° C. After cooling, the reaction mixture was poured into water. The precipitate was filtered off, washed with water and dissolved in trichloromethane. This solution was dried, filtered and evaporated. The residue was purified by column chromatography (silica gel; CHCl3 /CH3OH 97:3). The eluent of the desired fraction was evaporated and the residue was crystallized from 2-propanone. The product was filtered off and dried, yielding 1.7 parts (33.2%) of 3-[4-[2-[4-(5-ethyl-1,2,4-oxadiazol-3-yl)phenoxy]ethyl]-1-piperidinyl]-6-methylpyridazine; mp. 125.3° C. (comp. 6).

reactant | 3-[4-(2-chloroethyl)-1-piperidinyl]-6-methylpyridazine | ClCCC1CCN(CC1)C=1N=NC(=CC1)C | C12H18ClN3
reactant | 4-(5-ethyl-1,2,4-oxadiazol-3-yl)phenol | C(C)C1=NC(=NO1)C1=CC=C(C=C1)O | C10H10N2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 3-[4-[2-[4-(5-ethyl-1,2,4-oxadiazol-3-yl)phenoxy]ethyl]-1-piperidinyl]-6-methylpyridazine | 33.2% | C(C)C1=NC(=NO1)C1=CC=C(OCCC2CCN(CC2)C=2N=NC(=CC2)C)C=C1 | C22H27N5O2
